US08871756B2
2-(4-Chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine
The title compound was prepared in Scheme 1 by using 2,3,4,5-tetrahydro-1H-2-benzazepine (commercial available) and 2,4-dichloroquinoline (commercial available) instead of 7-bromo-2,3,4,5-tetrahydro-1H-2-benzazepine and 2,4,6-trichloroquinoline respectively. MS obsd. (ESI+) [(M+H)+] 309. 1H NMR (400 MHz, CDCl3) δ ppm 7.92-7.88 (dd, J=1.2, 8.0 Hz, 1 H), 7.65 (d, J=8 Hz, 1 H), 7.53-7.45 (m, 2 H), 7.24-7.10 (m, 5 H), 4.81 (s, 2 H), 4.09 (brs, 2 H), 3.02-2.97 (m, 2 H), 1.94-1.88 (m, 2 H).

reactant | 2,3,4,5-tetrahydro-1H-2-benzazepine | C1NCCCC2=C1C=CC=C2 | C10H13N
reactant | 2,4-dichloroquinoline | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | 2,4,6-trichloroquinoline | ClC1=NC2=CC=C(C=C2C(=C1)Cl)Cl | C9H4Cl3N
product | 2-(4-Chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | ClC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C19H17ClN2
